US05654316
N-(4-Chlorophenyl)-beta-(3,4-Dichlorophenyl)-N-methyl-4-(phenylmethyl)-1-piperidinepentanamide
3,4-Dichloro-beta-(2-methanesulfonyloxyethyl)-N-methyl-N-(4-chlorophenyl)benzene propanamide (1.6 g) in DMF (10 mL) was treated with 4-phenyl-4-hydroxypiperidine (1.14 g) and K2CO3 (0.476 g). The mixture was heated at 60° C. for 18 hours. The cooled reaction mixture was diluted the EtOAc (100 mL) and washed with H2O (2×100 mL). The organic extracts were dried over MgSO4, filtered and concentrated under reduced pressure to give an oil. Silica gel chromatography eluting with 95:5 (CH2Cl2 :MeOH) gave the title compound (0.56 g). M.p. 67°-72°, Mass spectrum (CI): 543.

reactant | 3,4-Dichloro-beta-(2-methanesulfonyloxyethyl)-N-methyl-N-(4-chlorophenyl)benzene propanamide | 1.6 g | ClC=1C=C(C=CC1Cl)C(CC(=O)N(C1=CC=C(C=C1)Cl)C)CCOS(=O)(=O)C | C19H20Cl3NO4S
reactant | 4-phenyl-4-hydroxypiperidine | 1.14 g | C1(=CC=CC=C1)C1(CCNCC1)O | C11H15NO
reactant | K2CO3 | 0.476 g | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorophenyl)-beta-(3,4-Dichlorophenyl)-N-methyl-4-(phenylmethyl)-1-piperidinepentanamide | 0.56 g | ClC1=CC=C(C=C1)N(C(CC(CCN1CCC(CC1)CC1=CC=CC=C1)C1=CC(=C(C=C1)Cl)Cl)=O)C | C30H33Cl3N2O
